US09226501B2
2-Chloro-5-methoxy-4-vinylbenzoic acid: A 25 mL round bottomed flask was charged with methyl 4-bromo-2-chloro-5-methoxybenzoate (640 mg, 2.29 mmol), K2CO3 (665 mg, 4.81 mmol), potassium trifluoro(vinyl)borate (920 mg, 6.87 mmol), PdCl2(dppf) (84 mg, 0.11 mmol) and anhydrous DMSO (15 mL) and stirred at 80° C. for 2 h. The reaction was allowed to cool, water (150 mL) was added and then extracted several times with Et2O. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated to give a brown residue. The crude product was purified via flash chromatography eluting with 15% Et2O/hexanes to give methyl 2-chloro-5-methoxy-4-vinylbenzoate as a yellow oil (440 mg, 85%). To a 25 mL round bottomed flask containing methyl 2-chloro-5-methoxy-4-vinylbenzoate (440 mg, 1.94 mmol) and MeOH (10 mL) was added 1N NaOH (2 mL, 2.04 mmol) and reaction stirred at ambient temperature for 18 h. The reaction mixture was concentrated to give a solid residue. The residue was dissolved in water and extracted 1× with 50% Et2O/hexanes. The aqueous layer was made acidic with 2N HCl and extracted 2× with CH2Cl2, dried over MgSO4, filtered and concentrated to afford the title compound as a white solid (0.39 g, 94%): 1H NMR (400 MHz, CDCl3) δ 7.54 (d, J=0.5 Hz, 1H), 7.52 (s, 1H), 6.98 (ddd, J=17.7, 11.2, 0.6 Hz, 1H), 5.87 (dd, J=17.7, 1.1 Hz, 1H), 5.45 (dd, J=11.2, 1.1 Hz, 1H), 3.90 (s, 3H).

reactant | 2-Chloro-5-methoxy-4-vinylbenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)C=C)OC | C10H9ClO3
reactant | methyl 4-bromo-2-chloro-5-methoxybenzoate | 2.29 mmol, 640 mg | BrC1=CC(=C(C(=O)OC)C=C1OC)Cl | C9H8BrClO3
reactant | K2CO3 | 4.81 mmol, 665 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium trifluoro(vinyl)borate | 6.87 mmol, 920 mg | [B-](C=C)(F)(F)F.[K+]
catalyst | PdCl2(dppf) | 0.11 mmol, 84 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 150 mL | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | methyl 2-chloro-5-methoxy-4-vinylbenzoate | 440 mg, 85% | ClC1=C(C(=O)OC)C=C(C(=C1)C=C)OC | C11H11ClO3
